US04939064
Synthesis of 1-naphthalenesulfonyl chloride
In a mixed solution of 260 ml of acetonitrile and 7 ml of dimethylacetamide was suspended 133 g of sodium α-naphthalenesulfonate. While cooling the suspension with water, 80 ml of phosphorus oxychloride was dropwise added to the suspension. After the addition, the mixture was reacted at 65° C. for one hour. The reaction mixture was cooled and poured into 2 l of ice-cold water. The precipitated grayish-white crystals were recovered by filtration and air-dried. The yield was 110.8 g (84.6% of theoretical value), m.p. 66°-68° C.

reactant | acetonitrile | 260 ml | C(C)#N | C2H3N
reactant | dimethylacetamide | 7 ml | CC(=O)N(C)C | C4H9NO
reactant | sodium α-naphthalenesulfonate | 133 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)[O-].[Na+]
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | O | H2O
product | 1-naphthalenesulfonyl chloride | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
